US03961067
To a mixture of 1.18 g. (0.005 mole) of 4-(2-aminoethyl)-benzenesulfonamide hydrochloride [E. Miller et al., Journal of the American Chemical Society, Vol. 62, p. 2099 (1940)] and 1.4 ml. (0.010 mole) of triethylamine in 15 ml. of dry tetrahydrofuran, there was added 805 mg. (0.005 mole) of 4-methyl-5-thiazolecarboxylic acid chloride dissolved in 15 ml. of tetrahydrofuran. The addition caused a slight exothermic reaction to occur, after which the reaction mixture was allowed to stand at ambient temperatures for a period of approximately 16 hours with constant agitation being maintained throughout the entire step. At this point, the spent mixture was poured into 50 ml. of ice water and subsequently acidified with a few drops of 3N aqueous hydrochloric acid. The resulting cream-colored precipitate was then recovered by means of suction filtration, washed well with cold water and thereafter crystallized from acetonitrile (after treatment with activated carbon) to yield 1.8 g (73%) of pure 4-[2-methyl-5-thiazolecarboxamido)ethyl]benzenesulfonamide, m.p. 182°-183°C.

reactant | 4-(2-aminoethyl)-benzenesulfonamide hydrochloride | 0.005 mole | Cl.NCCC1=CC=C(C=C1)S(=O)(=O)N
reactant | triethylamine | 0.010 mole | C(C)N(CC)CC | C6H15N
reactant | 4-methyl-5-thiazolecarboxylic acid chloride | 0.005 mole | CC=1N=CSC1C(=O)Cl | C5H4ClNOS
catalyst | hydrochloric acid | 3N, a few drops | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
